US06020368
1-Ethyl-isonipecotic acid hydrochloride (0.95 g) was suspended in thionyl chloride (8 ml) and the mixture was stirred and heated under reflux for 3 hours to give a clear yellow solution. The thionyl chloride was removed by evaporation under reduced pressure and the resulting residue was suspended in toluene (5 ml) and the toluene was removed by evaporation under reduced pressure to give 1-ethyl-isonipecotoyl chloride hydrochloride as a white solid. The acid chloride was suspended in dry dichloromethane (20 ml) and silver cyanate (1.5 g) was added. The mixture was stirred and heated under reflux for 1 hour. The mixture was cooled to room temperature and (3R)-3-deoxo-11-deoxy-3-methoxy-11-oxo-4-epi-mutilin (1 g) and triethylamine (0.5 g) were added. The mixture was stirred at room temperature for 16 hours. The mixture was diluted with ethyl acetate (50 ml) and the solid was removed by filtration. The filtrate was washed with saturated sodium bicarbonate and saturated sodium chloride. The solution was dried (sodium sulphate), and the solvent was removed by evaporation under reduced pressure to give a yellow gum. The gum was chromatographed on silica gel using 1:3 ethyl acetate/chloroform and 1:9:90 ammonia solution (35%)/methanol/dichloromethane to give the title compound as a colourless gum (134 mg); 1H NMR (CDCl3) inter alia 2.88 (2H, q, J 6.5 Hz), 3.08 (3H, m), 3.22 (3H, s), 3.42 (1H, m), 5.04 (1H, d, J 17.5 Hz), 5.33 (1H, d, J 10.7 Hz), 5.74 (1H, d, J 9.9 Hz), 6.63 (1H, dd, J 17.5, 10.7 Hz), 7.47 (1H, s).

reactant | 1-Ethyl-isonipecotic acid hydrochloride | 0.95 g | Cl.C(C)N1CCC(C(=O)O)CC1
solvent | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-ethyl-isonipecotoyl chloride hydrochloride | Cl.C(C)N1CCC(C(=O)Cl)CC1 | InChI=1S/C8H14ClNO.ClH/c1-2-10-5-3-7(4-6-10)8(9)11;/h7H,2-6H2,1H3;1H
